US07524847B2
N*4*-Allyl-2-chloropyridin-3,4-diamine
35% Hydrochloric acid (55 mL) was added to allyl(3-nitropyridin-4-yl) amine (3.02 g) and this was heated to 90° C. Tin chloride (19.1 g) was added, and this was reacted at 90° C. for 30 minutes. The reaction solution was cooled on iced water, and 250 mL of iced water was added. The reaction solution was concentrated under reduced pressure, and then a saturated solution of ammonia-methanol (250 mL) was added, and this was stirred for 20 hours. Ethyl acetate (750 mL) was then added, and this was filtered through celite, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography, and the fraction eluted by ethyl acetate-hexane (1:1) gave the title compound (2.88 g).

reactant | Hydrochloric acid | 55 mL | Cl | ClH
reactant | allyl(3-nitropyridin-4-yl) amine | 3.02 g | C(C=C)NC1=C(C=NC=C1)[N+](=O)[O-] | C8H9N3O2
reactant | Tin chloride | 19.1 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | water | 250 mL | O | H2O
product | N*4*-Allyl-2-chloropyridin-3,4-diamine | 2.88 g | C(C=C)NC1=C(C(=NC=C1)Cl)N | C8H10ClN3
